US07375101B2
3-Amino-7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 7, 3-azido-7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one (0.0826 g, 0.267 mmol) and PS—PPh3 (1.63 g of 1.64 mmol/g, 2.67 mmol) were combined. After workup and purification by “catch and release,” the title compound was obtained as a slightly yellow solid (0.0450 g, 59%). 1H-NMR (CDCl3): δ 7.65-7.60 (m, 2H), 7.51-7.46 (m, 1H), 7.44-7.39 (m, 2H), 7.36 (dd, J=4.8 Hz, J=9.2 Hz, 1H), 7.33-7.26 (m, 1H), 7.03 (dd, J=2.4 Hz, J=8.4 Hz, 1H), 4.48 (s, 1H), 3.45 (s, 3H), 2.30-1.60 (br s, 2H). MS (ESI) (M+H)+=284.

reactant | 3-azido-7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.267 mmol, 0.0826 g | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)F)C)=O | C16H12FN5O
reactant | PPh3 | 2.67 mmol, 1.63 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 3-Amino-7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)F)C)=O | C16H14FN3O
